US07112682B2
In a 800 L vessel, prepare a solution of 3.0 kg (74.4 mol) sodium borohydride and 26.8 kg (124 mol, 86% purity) 3-methyl-N-(propylidene)-1H-indol-1-amine in 108 kg NMP. Prepare a solution of 4.5 kg (74.4 mol) glacial acetic acid in 27 kg NMP. Add the acetic acid solution over a period of about 30 nm at 30° C. to the sodium borohydride solution. Immediately hydrogen is evolved. Stir the reaction mixture at 30° C. until completion of the reaction (˜1 h). Add 6.3 kg ethanol to the reaction mixture, foaming occurs immediately. The reaction mixture is then worked-up by adding additional 80 L water cautiously. Attention is taken during the addition of water such that foaming is controlled, slow addition of water is recommended especially in the beginning to avoid uncontrolled foaming. Care is taken to ensure no or only minimal foaming occurs while the first 1–2 L of water is added. The reaction mixture is allowed to stand over night. Extract the water phase three times with 45 kg n-heptane and wash the combined organic phases with 66 L water. Evaporate the combined organic phases to dryness. This results in 22.4 kg 3-methyl-N-propyl-1H-indol-1-amine (yield 90%, 94% purity) as a brown liquid.

reactant | sodium borohydride | 74.4 mol, 3.0 kg | [BH4-].[Na+]
reactant | 3-methyl-N-(propylidene)-1H-indol-1-amine | 124 mol, 26.8 kg | CC1=CN(C2=CC=CC=C12)N=CCC | C12H14N2
reactant | acetic acid | 74.4 mol, 4.5 kg | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | NMP | 108 kg | CN1CCCC1=O | C5H9NO
solvent | NMP | 27 kg | CN1CCCC1=O | C5H9NO
solvent | water | 1–2 L | O | H2O
solvent | water | 80 L | O | H2O
solvent | ethanol | 6.3 kg | C(C)O | C2H6O
product | 3-methyl-N-propyl-1H-indol-1-amine | 22.4 kg, yield 90% | CC1=CN(C2=CC=CC=C12)NCCC | C12H16N2
